US09024027B2
To a solution of ethyl 2-(3-(tert-butoxycarbonylamino)-1H-indol-1-yl)acetate (275 mg, 0.864 mmol) in dry DCM (8 ml), cooled at 0° C. and under nitrogen, 4N HCl in dioxane (2.159 ml, 8.64 mmol) was added, and the mixture was stirred at room temperature for 36 hours. The solvent was removed under reduced pressure without heating to give ethyl 2-(3-amino-1H-indol-1-yl)acetate hydrochloride (220 mg, 0.864 mmol, quantitative yield). MS/ESI+ 219.1 [MH]+.

reactant | ethyl 2-(3-(tert-butoxycarbonylamino)-1H-indol-1-yl)acetate | 0.864 mmol, 275 mg | C(C)(C)(C)OC(=O)NC1=CN(C2=CC=CC=C12)CC(=O)OCC | C17H22N2O4
reactant | HCl | 4N | Cl | ClH
reactant | dioxane | 8.64 mmol, 2.159 ml | O1CCOCC1 | C4H8O2
solvent | DCM | 8 ml | C(Cl)Cl | CH2Cl2
product | ethyl 2-(3-amino-1H-indol-1-yl)acetate hydrochloride | 0.864 mmol, 220 mg, quantitative yield | Cl.NC1=CN(C2=CC=CC=C12)CC(=O)OCC | InChI=1S/C12H14N2O2.ClH/c1-2-16-12(15)8-14-7-10(13)9-5-3-4-6-11(9)14;/h3-7H,2,8,13H2,1H3;1H
